US05885990
Preparation of 6-amidino-1-(2-carboxyethyl)-2-naphthyl 4-aminoiminomethylaminobenzoate.dihydrochloride:
300 Milliliters of 3.6% hydrochloric acid was added to 3.3 g of 6-amidino-1-(2-carbamoylethyl)-2-naphthyl 4-aminoiminomethylaminobenzoate.methanesulfonic acid hydrochloride, followed by stirring for 6 hours at 75°-80° C. Furthermore, the reaction mixture was stirried for 24 hours under cooling with ice. Then, the precipitate was collected by filtration and washed with a small amount of 15% hydrochloric acid and acetone to obtain 1.58 g of the desired product.

reactant | hydrochloric acid | Cl | ClH
reactant | 6-amidino-1-(2-carbamoylethyl)-2-naphthyl 4-aminoiminomethylaminobenzoate | 3.3 g | NN=CNC1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)CCC(N)=O)C=C1 | C22H22N6O3
reactant | methanesulfonic acid hydrochloride | Cl.CS(=O)(=O)O
product | 6-amidino-1-(2-carboxyethyl)-2-naphthyl 4-aminoiminomethylaminobenzoate.dihydrochloride | 1.58 g | Cl.Cl.NN=CNC1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)CCC(=O)O)C=C1 | InChI=1S/C22H21N5O4.2ClH/c23-21(24)15-3-7-17-14(11-15)4-9-19(18(17)8-10-20(28)29)31-22(30)13-1-5-16(6-2-13)26-12-27-25;;/h1-7,9,11-12H,8,10,25H2,(H3,23,24)(H,26,27)(H,28,29);2*1H
